US08236826B2
Production of 3,4-dichloro-N-(6-{4-[[2-oxo-2-(4-piperonylpiperazin-1-yl)ethyl](2,2,2-trifluoroacetyl)amino]phenoxy}pyridin-3-yl)benzamide
To a solution of 3,4-dichloro-N-(6-{4-[2-oxo-2-(4-piperonylpiperazin-1-yl)ethylamino]phenoxy}pyridin-3-yl)benzamide (0.152 g, 0.239 mmol) in THF (5 mL) were added triethylamine (0.0500 mL, 0.359 mmol) and trifluoroacetic anhydride (0.0410 mL, 0.2.87 mmol), and the resulting solution was stirred for 6 hours. Water was added to the resulting reaction solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (dichloromethane:methanol=20:1) to yield a solid. This solid was recrystallized from methanol, to thereby yield 28.8 mg of the title compound.

reactant | 3,4-dichloro-N-(6-{4-[2-oxo-2-(4-piperonylpiperazin-1-yl)ethylamino]phenoxy}pyridin-3-yl)benzamide | 0.239 mmol, 0.152 g | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)NCC(N2CCN(CC2)CC2=CC=3OCOC3C=C2)=O)C=CC1Cl | C32H29Cl2N5O5
reactant | triethylamine | 0.359 mmol, 0.0500 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.0410 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3,4-dichloro-N-(6-{4-[[2-oxo-2-(4-piperonylpiperazin-1-yl)ethyl](2,2,2-trifluoroacetyl)amino]phenoxy}pyridin-3-yl)benzamide | ClC=1C=C(C(=O)NC=2C=NC(=CC2)OC2=CC=C(C=C2)N(C(C(F)(F)F)=O)CC(N2CCN(CC2)CC2=CC=3OCOC3C=C2)=O)C=CC1Cl | C34H28Cl2F3N5O6
